US07232827B2
15.2 9-(6,7-Dihydro-5H-[1]pyrindin-6-(R)-ylmethyl)-8,8-dimethyl-2-pyridin-4-yl-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one
To a solution of 0.226 g (0.88 mmol) of 8,8-dimethyl-2-(pyridin-4-yl)-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one in 5 ml of anhydrous dimethylformamide was added 0.040 g (0.97 mmol) of sodium hydride (60% suspension in mineral oil) and the mixture was allowed to stir at 45° C. for 3 hours. 0.20 g (0.88 mmol) of methanesulfonic acid 6,7-dihydro-5H-[1]pyrindin-6-(R)-ylmethyl ester was added and the stirring continued at 80° C. for 18 h. The mixture was cooled and a solution of saturated ammonium chloride was added. The mixture was extracted with trichloromethane/methanol 90/10. The extracts were washed with a saturated aqueous solution of sodium chloride, dried and evaporated to give crude product. Purification by chromatography on silica gel eluting with a mixture of ethylacetate/ethanol in the proportions 100/0 to 70/20, gives 0.197 g (58%) of the compound in the form of free base.

reactant | 8,8-dimethyl-2-(pyridin-4-yl)-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one | 0.88 mmol, 0.226 g | CC1(NC=2N(C(C=C(N2)C2=CC=NC=C2)=O)CC1)C | C14H16N4O
reactant | sodium hydride | 0.97 mmol, 0.040 g | [H-].[Na+]
reactant | methanesulfonic acid 6,7-dihydro-5H-[1]pyrindin-6-(R)-ylmethyl ester | 0.88 mmol, 0.20 g | N1=CC=CC=2C[C@H](CC12)COS(=O)(=O)C | C10H13NO3S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 9-(6,7-Dihydro-5H-[1]pyrindin-6-(R)-ylmethyl)-8,8-dimethyl-2-pyridin-4-yl-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one | 0.197 g, 58% | N1=CC=CC=2C[C@H](CC12)CN1C(CCN2C1=NC(=CC2=O)C2=CC=NC=C2)(C)C | C23H25N5O
